### PR TITLE
Vst on iris

### PR DESCRIPTION
**Pull request by rinshankaihou**
floyd/sc_set_load_store.v and its dependencies are partially fixed.

### CODE REVIEW

File: floyd/loadstore_field_at.v [hunk 1]
```diff
@@ -32,31 +31,59 @@ Section LOADSTORE_FIELD_AT.
...
 
-Lemma self_ramify_trans: forall {A} `{SepLog A} (g m l: A), (g |-- m * TT) -> (m |-- l * TT) -> g |-- l * TT.
+Lemma self_ramify_trans: forall {prop:bi} (g m l: prop), (g ⊢ m ∗ True) -> (m ⊢ l ∗ True) -> g ⊢ l ∗ True.
 Proof.
-  intros A ND SL ? ? ? ? ?.
+  intros.
+  rewrite H. rewrite H0. rewrite bi.sep_True. done.
+Qed.
+
+(* TODO weak_ramif_spec, solve, trans are the same as the one in msl/ramification_lemmas.v; delete this when that file is fixed *)
```
Comment (mansky1) [inline floyd/loadstore_field_at.v:40]: I might just delete these lemmas, actually -- I found that the ramification stuff is much more easily accomplished by using Iris Proof Mode tactics.

**Review by mansky1 — APPROVED** [review]
